US05219871
Preparation of 4-[N-(4-chlorophenethyl)-N-methylamino]-2,2-diphenylbutanamide
A solution of 3-[N-(4-chlorophenethyl)-N-methylamino]-1-cyano-1,1-diphenylpropane (0.2 g-Preparation 24) in 90% sulphuric acid (0.5 ml) was heated at 80°-85° C. for 3 hours. On cooling to room temperature, ice (10 g) was added and the mixture was basified (pH 10) by the addition of potassium carbonate. The mixture was extracted with dichloromethane (3×50 ml) and the combined dichloromethane extracts were washed with water (2×20 ml) then dried (Na2SO4) and concentrate in vacuo to give a gum. The gum was purified by column chromatography on silica eluting with hexane containing dichloromethane (25% up to 100%) followed by dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a gum, yield, 0.16 g.

reactant | 3-[N-(4-chlorophenethyl)-N-methylamino]-1-cyano-1,1-diphenylpropane | 0.2 g | ClC1=CC=C(CCN(C)CCC(C2=CC=CC=C2)(C2=CC=CC=C2)C#N)C=C1 | C25H25ClN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
product | 4-[N-(4-chlorophenethyl)-N-methylamino]-2,2-diphenylbutanamide | ClC1=CC=C(CCN(C)CCC(C(=O)N)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C25H27ClN2O
